US08530687B2
N-(tert-butyl)-N-phenylamine (1a)
A mixture of Pd(dba)2 (0.230 g, 0.400 mmol), (±)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene (0.374 g, 0.601 mmol) and toluene (40 mL) in a sealed tube was stirred for 30 min at room temperature before adding tert-butylamine (1.80 mL, 17.1 mmol), bromobenzene (1.60 mL, 15.2 mmol) and sodium tert-butoxide (2.01 g, 20.9 mmol). The reaction solution was flushed with Ar for 1 min. and was stirred for 24 h at 100° C. After cooling the reaction mixture to room temperature, Et2O (50 mL) was added. The reaction mixture was filtered through a pad of celite and was concentrated. Vacuum distillation of the crude mixture at 60° C. gave the desired product (1.876 g, 83.3%) as a colorless liquid. 1H NMR (300 MHz, CDCl3) δ 7.17 (t, J=7.9 Hz, 2 H), 6.83-6.69 (m, 3H), 3.37 (br. s, 1H), 1.35 (s, 9H); 13C NMR (75 MHz, CDCl3) δ 147.1, 129.1, 118.6, 117.7, 51.7, 30.3. HRMS-ESI (m/z): [M+H]+ calcd for C10H15N, 150.1277. found, 150.1270.

reactant | tert-butylamine | 17.1 mmol, 1.80 mL | C(C)(C)(C)N | C4H11N
reactant | bromobenzene | 15.2 mmol, 1.60 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium tert-butoxide | 20.9 mmol, 2.01 g | CC(C)([O-])C.[Na+]
catalyst | Pd(dba)2 | 0.400 mmol, 0.230 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | (±)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthalene | 0.601 mmol, 0.374 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-(tert-butyl)-N-phenylamine | 1.876 g, 83.3% | C(C)(C)(C)NC1=CC=CC=C1 | C10H15N
